US06573293B2
2,4-Dimethyl-5-(2-oxo-6-phenyl-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-3-carboxylic Acid (3-diethylaminopropyl)amide
6-Phenyl-1,3-dihydroindol-2-one (1.5 g, 7.16 mmol) was condensed with 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (3-diethylaminopropyl)amide (2 g) to give 1.9 g (57%) of the title compound as an orange solid.

reactant | 6-Phenyl-1,3-dihydroindol-2-one | 7.16 mmol, 1.5 g | C1(=CC=CC=C1)C1=CC=C2CC(NC2=C1)=O | C14H11NO
reactant | 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (3-diethylaminopropyl)amide | 2 g | C(C)N(CCCNC(=O)C1=C(NC(=C1C)C=O)C)CC | C15H25N3O2
product | 2,4-Dimethyl-5-(2-oxo-6-phenyl-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-3-carboxylic Acid (3-diethylaminopropyl)amide | 1.9 g, 57% | C(C)N(CCCNC(=O)C1=C(NC(=C1C)C=C1C(NC2=CC(=CC=C12)C1=CC=CC=C1)=O)C)CC | C29H34N4O2
